* INA333 TI macromodel (Rev 1.2) — ngspice-patched for this project
* Patches vs vendor INA333.LIB:
*   - VOS drift: fixed at DC (temp=27 C); TEMP expressions removed
*   - IF() -> ternary ? : operator
*   - VSWITCH -> ngspice SW (Vt/Vh from VON/VOFF)
* Source: Texas Instruments SBOM310E / INA333.LIB (Feb 2019)
*$
* INA333
*************************************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*************************************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensor's and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*************************************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*************************************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA333
* Date: 06FEB2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS445C -JULY 2008-REVISED DECEMBER 2015
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:
*
* Final 1.2
* Updated with unique subckt name,Current Noise, Voltage Noise and edits in claw block
*
*
* Final 1.1 
* Release to Web.
*
****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt INA333 IN+ IN- VCC VEE OUT REF RG+ RG-
******************************************************
.model R_NOISELESS RES( TCE=0 T_ABS=-273.15)
******************************************************
I_B2        IN+ MID 70P
I_OS2       RG+ MID -70P
I_OS1       RG- MID -70P
I_B1        IN- MID 20P
XV_OS2       IN+_10 IN+ VOS_DRIFT2_INA333_INA333
XV_OS1       IN+_12 IN- VOS_DRIFT1_INA333_INA333
I_Q         VCC VEE 50U
XA2         IN+_10 RG+ VCC VEE OUT_11 MID IN_AMP_INA333
E1          MID 0 13 0  1
R89         14 0 R_NOISELESS 1 
R9          15 14 R_NOISELESS 1M 
C7          15 0  1F
R60         13 15 R_NOISELESS 1MEG 
C6          13 0  1 
R8          13 0 R_NOISELESS 1T 
R59         16 13 R_NOISELESS 1MEG 
C5          16 0  1F 
R7          17 16 R_NOISELESS 1M 
R88         17 0 R_NOISELESS 1 
G17         14 0 VEE 0  -1
G16         17 0 VCC 0  -1
C_CMn       MID IN-  3P
C_CMp       IN+ MID  3P
C_DIFF      IN- IN+  3P
C1          RG- OUT_18  3.5P
C2          RG+ OUT_11  3.5P
C3          OUT IN-_19  1P
C4          REF IN+_20  1F
XA1         IN+_12 RG- VCC VEE OUT_18 MID IN_AMP_INA333
XA3         IN+_20 IN-_19 VCC VEE OUT MID OUT_AMP_INA333
R6          IN+_20 REF R_NOISELESS 150.0095K 
R5          OUT_11 IN+_20 R_NOISELESS 150K 
R4          IN-_19 OUT R_NOISELESS 150K 
R3          OUT_18 IN-_19 R_NOISELESS 150K 
R2          RG+ OUT_11 R_NOISELESS 50K 
R1          RG- OUT_18 R_NOISELESS 50K 
.ends INA333
*
.subckt IN_AMP_INA333 IN+ IN- VCC VEE OUT MID
.model R_NOISELESS RES( TCE=0 T_ABS=-273.15)
.model S_VSWITCH_1 SW (Ron=1Meg Roff=1G Vt=850m Vh=100m)
VCLAWn      36 IN_33 30M
VCLAWp      37 IN_32 -30M
V4          ZO_OUT_40 OUT 0
V_GRp       50 MID 48
V_GRn       51 MID -69
VCM_MIN     61 IN_33 -100M
VCM_MAX     62 IN_32 100M
R4          ESD_INA333n_30 34 R_NOISELESS 9.15475K 
C2          34 MID  2P 
C1          MID 35  2P 
R3          ESD_INA333p_31 35 9.15475K 
XU1 ZO_CLEFT_38 CL_CLAMP_25 ZO_CRIGHT_39 MID ZO_OUT_40 AOL_INN_41 AOL_INP_42 
+ CLAMP_28 CLAW_CLAMP_26 VSENSE_27 AOL_ZO_INA333 
XU5         VEE VCC ESD_INA333n_30 ESD_INA333p_31 ESD_INA333
H1          43 MID V4 1K
R11         MID 44 R_NOISELESS 1T 
R18         44 VOUT_S_23 R_NOISELESS 100 
C7          VOUT_S_23 MID  1N 
E5          44 MID OUT MID  1
C13         VIMON_24 MID  1N 
R33         43 VIMON_24 R_NOISELESS 100 
R10         MID 43 R_NOISELESS 1T 
S1          ZO_CLEFT_38 ZO_CRIGHT_39 SW_OL_29 MID S_VSWITCH_1
XU3         OUT_45 IN_33 MID PSRR_CMRR_0_INA333
XU2         OUT_46 IN_32 MID PSRR_CMRR_1_INA333
C28         47 MID  1P 
R77         CLAWp_22 47 R_NOISELESS 100 
C27         48 MID  1P 
R76         CLAWn_21 48 R_NOISELESS 100 
Xi_nn       34 MID FEMT_INA333
Xi_np       MID 49 FEMT_INA333
Xe_n        35 49 VNSE_INA333
XIQPos      VIMON_24 MID MID VCC VCCS_LIM_IQ_INA333
XIQNeg      MID VIMON_24 VEE MID VCCS_LIM_IQ_INA333
XGR_AMP     50 51 52 MID 53 54 CLAMP_AMP_HI_INA333
R39         50 MID R_NOISELESS 1T 
R37         51 MID R_NOISELESS 1T 
R42         VSENSE_27 52 R_NOISELESS 1M 
C19         52 MID  1F 
R38         53 MID R_NOISELESS 1 
R36         MID 54 R_NOISELESS 1 
R40         53 55 R_NOISELESS 1M 
R41         54 56 R_NOISELESS 1M 
C17         55 MID  1F 
C18         MID 56  1F 
XGR_SRC     55 56 CLAMP_28 MID VCCS_LIM_GR_INA333
XCLAW_AMP   37 36 VOUT_S_23 MID 57 58 CLAMP_AMP_LO_INA333
R26         37 MID R_NOISELESS 1T 
R23         36 MID R_NOISELESS 1T 
R25         57 MID R_NOISELESS 1 
R24         MID 58 R_NOISELESS 1 
R27         57 CLAWp_22 R_NOISELESS 1M 
R28         58 CLAWn_21 R_NOISELESS 1M 
C11         CLAWp_22 MID  1F 
C10         MID CLAWn_21  1F 
XCLAW_SRC   CLAWp_22 CLAWn_21 CLAW_CLAMP_26 MID VCCS_LIM_3_INA333
C12         SW_OL_29 MID  100P 
R32         59 SW_OL_29 R_NOISELESS 100 
R31         59 MID R_NOISELESS 1 
XOL_SENSE_INA333   MID 59 48 47 OL_SENSE_INA333
C4          AOL_INP_42 MID  1F 
R9          AOL_INP_42 60 R_NOISELESS 1M 
R7          MID 61 R_NOISELESS 1T 
R6          62 MID R_NOISELESS 1T 
R8          MID 60 R_NOISELESS 1 
XVCM_CLAMP  63 MID 60 MID 62 61 VCCS_EXT_LIM_INA333
R89         IN_33 0 R_NOISELESS 1 
R88         IN_32 0 R_NOISELESS 1 
G17         IN_33 0 VEE 0  -1
G16         IN_32 0 VCC 0  -1
R_PSR       64 63 R_NOISELESS 1K 
G_PSR       63 64 OUT_46 OUT_45  -1M
R2          AOL_INN_41 34 R_NOISELESS 1M 
R1          64 49 R_NOISELESS 1M 
R53         ESD_INA333n_30 MID R_NOISELESS 1T 
R52         MID ESD_INA333p_31 R_NOISELESS 1T 
R35         IN- ESD_INA333n_30 R_NOISELESS 10M 
R34         IN+ ESD_INA333p_31 R_NOISELESS 10M 
.ends
*
.subckt OUT_AMP_INA333 IN+ IN- VCC VEE OUT MID
.model R_NOISELESS RES( TCE=0 T_ABS=-273.15)
.model S_VSWITCH_1 SW (Ron=50 Roff=1T Vt=475m Vh=50m)
.model S_VSWITCH_2 SW (Ron=1Meg Roff=1G Vt=850m Vh=100m)
.model S_VSWITCH_3 SW (Ron=10Meg Roff=1G Vt=5m Vh=10m)
V4          ZO_OUT_203 OUT 0
I_OS        ESD_INA333n_197 MID -70P
I_B         211 MID 70P
V_GRp       226 MID 48
V_GRn       227 MID -69
V_ISCp      220 MID 5
V_ISCn      221 MID -11
V_ORn       219 VCLP -7.99
V11         225 218 0
V_ORp       217 VCLP 7.99
V12         224 216 0
VCM_MIN     245 IN_187 -100M
VCM_MAX     246 IN_188 100M
XV_OS        249 211 VOS_DRIFT_INA333
R89         IN_187 0 R_NOISELESS 1 
R88         IN_188 0 R_NOISELESS 1 
G17         IN_187 0 VEE 0  -1
G16         IN_188 0 VCC 0  -1
XU1 ZO_CLEFT_201 CL_CLAMP_189 ZO_CRIGHT_202 MID ZO_OUT_203 AOL_INN_204 
+ AOL_INP_205 CLAMP_195 CLAW_CLAMP_193 VSENSE_194 AOL_ZO_INA333 
XU5         VEE VCC ESD_INA333n_197 ESD_INA333p_198 ESD_INA333
R47         206 VCLP R_NOISELESS 100 
C24         VCLP MID  100P 
E4          206 MID CL_CLAMP_189 MID  1
H1          207 MID V4 1K
S7          VEE OUT VEE OUT S_VSWITCH_1
S6          OUT VCC OUT VCC S_VSWITCH_1
R11         MID 208 R_NOISELESS 1T 
R18         208 VOUT_S_191 R_NOISELESS 100 
C7          VOUT_S_191 MID  1N 
E5          208 MID OUT MID  1
C13         VIMON_192 MID  1N 
R33         207 VIMON_192 R_NOISELESS 100 
R10         MID 207 R_NOISELESS 1T 
S1          ZO_CLEFT_201 ZO_CRIGHT_202 SW_OL_196 MID S_VSWITCH_2
XU3         OUT_209 IN_187 MID PSRR_CMRR_0_INA333
XU2         OUT_210 IN_188 MID PSRR_CMRR_1_INA333
C28         212 MID  1P 
R77         213 212 R_NOISELESS 100 
C27         214 MID  1P 
R76         215 214 R_NOISELESS 100 
R75         MID 216 R_NOISELESS 1 
GVCCS8      216 MID 217 MID  -1
R74         218 MID R_NOISELESS 1 
GVCCS7      218 MID 219 MID  -1
Xi_nn       ESD_INA333n_197 MID FEMT_INA333
Xi_np       MID 211 FEMT_INA333
Xe_n        ESD_INA333p_198 211 VNSE_INA333
XIQPos      VIMON_192 MID MID VCC VCCS_LIM_IQ_INA333
XIQNeg      MID VIMON_192 VEE MID VCCS_LIM_IQ_INA333
C_DIFF      ESD_INA333p_198 ESD_INA333n_197  2P 
XCL_AMP     220 221 VIMON_192 MID 222 223 CLAMP_AMP_LO_INA333
SOR_SWp     CLAMP_195 224 CLAMP_195 224 S_VSWITCH_3
SOR_SWn     225 CLAMP_195 225 CLAMP_195 S_VSWITCH_3
XGR_AMP     226 227 228 MID 229 230 CLAMP_AMP_HI_INA333
R39         226 MID R_NOISELESS 1T 
R37         227 MID R_NOISELESS 1T 
R42         VSENSE_194 228 R_NOISELESS 1M 
C19         228 MID  1F 
R38         229 MID R_NOISELESS 1 
R36         MID 230 R_NOISELESS 1 
R40         229 231 R_NOISELESS 1M 
R41         230 232 R_NOISELESS 1M 
C17         231 MID  1F 
C18         MID 232  1F 
XGR_SRC     231 232 CLAMP_195 MID VCCS_LIM_GR_INA333
R21         222 MID R_NOISELESS 1 
R20         MID 223 R_NOISELESS 1 
R29         222 233 R_NOISELESS 1M 
R30         223 234 R_NOISELESS 1M 
C9          233 MID  1F 
C8          MID 234  1F 
XCL_SRC     233 234 CL_CLAMP_189 MID VCCS_LIM_4_INA333
R22         220 MID R_NOISELESS 1T 
R19         MID 221 R_NOISELESS 1T 
XCLAWp      VIMON_192 MID 235 IN_188 VCCS_LIM_CLAWp_INA333
XCLAWn      MID VIMON_192 IN_187 236 VCCS_LIM_CLAWn_INA333
R12         235 IN_188 R_NOISELESS 1K 
R16         235 237 R_NOISELESS 1M 
R13         IN_187 236 R_NOISELESS 1K 
R17         238 236 R_NOISELESS 1M 
C6          238 MID  1F 
C5          MID 237  1F 
G2          VCC_CLP MID 237 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 238 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S_191 MID 239 240 CLAMP_AMP_LO_INA333
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         239 MID R_NOISELESS 1 
R24         MID 240 R_NOISELESS 1 
R27         239 241 R_NOISELESS 1M 
R28         240 242 R_NOISELESS 1M 
C11         241 MID  1F 
C10         MID 242  1F 
XCLAW_SRC   241 242 CLAW_CLAMP_193 MID VCCS_LIM_3_INA333
H2          215 MID V11 -1
H3          213 MID V12 1
C12         SW_OL_196 MID  100P 
R32         243 SW_OL_196 R_NOISELESS 100 
R31         243 MID R_NOISELESS 1 
XOL_SENSE_INA333   MID 243 214 212 OL_SENSE_INA333
C4          AOL_INP_205 MID  1F 
R9          AOL_INP_205 244 R_NOISELESS 1M 
R7          MID 245 R_NOISELESS 1T 
R6          246 MID R_NOISELESS 1T 
R8          MID 244 R_NOISELESS 1 
XVCM_CLAMP  247 MID 244 MID 246 245 VCCS_EXT_LIM_INA333
R_PSR       248 247 R_NOISELESS 1K 
G_PSR       247 248 OUT_210 OUT_209  -1M
R2          AOL_INN_204 ESD_INA333n_197 R_NOISELESS 1M 
R1          248 249 R_NOISELESS 1M 
C_CMn       ESD_INA333n_197 MID  4P 
C_CMp       MID ESD_INA333p_198  4P 
R53         ESD_INA333n_197 MID R_NOISELESS 1T 
R52         MID ESD_INA333p_198 R_NOISELESS 1T 
R35         IN- ESD_INA333n_197 R_NOISELESS 10M 
R34         IN+ ESD_INA333p_198 R_NOISELESS 10M 
.ends
*
.subckt AOL_ZO_INA333 ZO_CLEFT CL_CLAMP ZO_CRIGHT MID ZO_OUT AOL_INN AOL_INP CLAMP CLAW_CLAMP VSENSE
.model R_NOISELESS RES( TCE=0 T_ABS=-273.15) 
C4_5        67 68  1.45P 
R11_5       68 MID R_NOISELESS 126.68M 
R10_5       68 67 R_NOISELESS 10K 
R1_5        67 MID R_NOISELESS 1 
GVCCS2_4    67 MID 69 MID  -1
C2_4        70 MID  16.75P 
R5_4        69 70 R_NOISELESS 10K 
R4_4        69 71 R_NOISELESS 9.04K 
R7_4        71 MID R_NOISELESS 1 
GVCCS1_3    71 MID 72 MID  -1.31
R2_3        72 MID R_NOISELESS 32.79K 
C1_3        72 73  80.5P 
R1_3        72 73 R_NOISELESS 10K 
Rdc_3       73 MID R_NOISELESS 1 
GVCCS2_2    73 MID 74 MID  -1
C2_2        75 MID  800.62P 
R5_2        74 75 R_NOISELESS 10K 
R4_2        74 76 R_NOISELESS 3.2MEG 
R7_2        76 MID R_NOISELESS 1 
R9_5        77 MID R_NOISELESS 1 
XVCVS_LIM_1 68 MID MID 77 VCCS_LIM_ZO_INA333
C2_A2       out2_65 MID  212.46F 
R3_A2       MID out2_65 R_NOISELESS 1MEG 
GVCCS3_A2   out2_65 MID VSENSE MID  -1U
C1_A0       CLAMP MID  1.09U 
R4_A0       MID CLAMP R_NOISELESS 1MEG 
XVCCS_LIM_2_INA333_A0 4_A0_66 MID MID CLAMP VCCS_LIM_2_INA333
R3_A0       MID 4_A0_66 R_NOISELESS 1MEG 
XVCCS_LIM_1_INA333_A0 AOL_INP AOL_INN MID 4_A0_66 VCCS_LIM_1_INA333
GVCCS1_1    76 MID ZO_CRIGHT MID  -112.04
C1_1        ZO_CLEFT ZO_CRIGHT  89.93U 
R2_1        ZO_CRIGHT MID R_NOISELESS 90.06 
R1_1        ZO_CRIGHT ZO_CLEFT R_NOISELESS 10K 
Rdummy      MID ZO_OUT R_NOISELESS 38.34K 
Rx          ZO_OUT 77 R_NOISELESS 383.39K 
Rdc_1       ZO_CLEFT MID R_NOISELESS 1 
G_Aol_Zo    ZO_CLEFT MID CL_CLAMP ZO_OUT  -373.52
R4_CL       MID CL_CLAMP R_NOISELESS 1K 
GVCCS4_CL   CL_CLAMP MID CLAW_CLAMP MID  -1M
R4_CC       MID CLAW_CLAMP R_NOISELESS 1K 
GVCCS4_CC   CLAW_CLAMP MID out2_65 MID  -1M
R4_VS       MID VSENSE R_NOISELESS 1K 
GVCCS4_VS   VSENSE MID CLAMP MID  -1M
.ends
*
.subckt PSRR_CMRR_0_INA333 OUT IN MID
.model R_NOISELESS RES( TCE=0 T_ABS=-273.15)
G_2         OUT MID 78 MID  -7
R74         MID OUT R_NOISELESS 1 
R2a         MID 79 R_NOISELESS 571.43 
C1a         79 80  3.98N 
R48         80 79 R_NOISELESS 100MEG 
G_1         80 MID IN MID  -175M
Rsrc        MID 80 R_NOISELESS 1 
R2b         MID 78 R_NOISELESS 16.67MEG 
C2a         78 81  15.92F 
R73         81 78 R_NOISELESS 100MEG 
GVCCS7      81 MID 79 MID  -1
R49         MID 81 R_NOISELESS 1 
.ends
*
.subckt PSRR_CMRR_1_INA333 OUT IN MID
.model R_NOISELESS RES( TCE=0 T_ABS=-273.15)
G_2         OUT MID 82 MID  -125
R74         MID OUT R_NOISELESS 1 
R2a         MID 83 R_NOISELESS 30.01K 
C1a         83 84  53.05P 
R48         84 83 R_NOISELESS 100MEG 
G_1         84 MID IN MID  -3.33M
Rsrc        MID 84 R_NOISELESS 1 
R2b         MID 82 R_NOISELESS 806.45K 
C2a         82 85  1.99P 
R73         85 82 R_NOISELESS 100MEG 
GVCCS7      85 MID 83 MID  -1
R49         MID 85 R_NOISELESS 1 
.ends
*
.SUBCKT VOS_DRIFT2_INA333_INA333 VOS+ VOS-
.PARAM DC = 4.5e-6
.PARAM POL = 1
.PARAM DRIFT = 0.25E-06
E1 VOS+ VOS- VALUE={DC}
.ENDS
*
.SUBCKT VOS_DRIFT1_INA333_INA333 VOS+ VOS-
.PARAM DC = -5.5e-6
.PARAM POL = 1
.PARAM DRIFT = -0.25E-06
E1 VOS+ VOS- VALUE={DC}
.ENDS
*
.SUBCKT VOS_DRIFT_INA333 VOS+ VOS-
.PARAM DC = 19.5e-6
.PARAM POL = 1
.PARAM DRIFT = 0.05E-06
E1 VOS+ VOS- VALUE={DC}
.ENDS
*
.subckt CLAMP_AMP_HI_INA333 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {V(VIN,COM)>V(VC+,COM) ? ((V(VIN,COM)-V(VC+,COM))*G) : 0}
GVo- COM Vo- Value = {V(VIN,COM)<V(VC-,COM) ? ((V(VC-,COM)-V(VIN,COM))*G) : 0}
.ends
*
.subckt CLAMP_AMP_LO_INA333 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {V(VIN,COM)>V(VC+,COM) ? ((V(VIN,COM)-V(VC+,COM))*G) : 0}
GVo- COM Vo- Value = {V(VIN,COM)<V(VC-,COM) ? ((V(VC-,COM)-V(VIN,COM))*G) : 0}
.ends
*
.subckt ESD_INA333 VEE VCC ESD_INA333n ESD_INA333p
.model S_VSWITCH_1 SW (Ron=50 Roff=1T Vt=650m Vh=100m)
.model S_VSWITCH_2 SW (Ron=50 Roff=1T Vt=475m Vh=50m)
S7          ESD_INA333p ESD_INA333n ESD_INA333p ESD_INA333n S_VSWITCH_1
S6          ESD_INA333n ESD_INA333p ESD_INA333n ESD_INA333p S_VSWITCH_1
S5          VEE ESD_INA333p VEE ESD_INA333p S_VSWITCH_2
S4          VEE ESD_INA333n VEE ESD_INA333n S_VSWITCH_2
S2          ESD_INA333n VCC ESD_INA333n VCC S_VSWITCH_2
S3          ESD_INA333p VCC ESD_INA333p VCC S_VSWITCH_2
.ends
*
.subckt FEMT_INA333 1 2
.param NVRF=100
.param RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1E-6
.ends
*
.subckt OL_SENSE_INA333 COM SW+ OLN  OLP
GSW+ COM SW+ Value = {(V(OLN,COM)>10e-3 || V(OLP,COM)>10e-3) ? 1 : 0}
.ends
*
.subckt VCCS_EXT_LIM_INA333 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={Gain*V(VIN+,VIN-)<V(VP-,VIN-) ? V(VP-,VIN-) : Gain*V(VIN+,VIN-)>V(VP+,VIN-) ? V(VP+,VIN-) : Gain*V(VIN+,VIN-)}
.ends
*
.subckt VCCS_LIM_1_INA333 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={Gain*V(VC+,VC-)<Ineg ? Ineg : Gain*V(VC+,VC-)>Ipos ? Ipos : Gain*V(VC+,VC-)}
.ends
*
.subckt VCCS_LIM_2_INA333 VC+ VC- IOUT+ IOUT-
.param Gain = 0.034771
.param Ipos = 0.21029
.param Ineg = -0.21033
G1 IOUT+ IOUT- VALUE={Gain*V(VC+,VC-)<Ineg ? Ineg : Gain*V(VC+,VC-)>Ipos ? Ipos : Gain*V(VC+,VC-)}
.ends
*
.subckt VCCS_LIM_3_INA333 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.1008
.param Ineg = -0.1449
G1 IOUT+ IOUT- VALUE={Gain*V(VC+,VC-)<Ineg ? Ineg : Gain*V(VC+,VC-)>Ipos ? Ipos : Gain*V(VC+,VC-)}
.ends
*
.subckt VCCS_LIM_4_INA333 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.2016
.param Ineg = -0.2898
G1 IOUT+ IOUT- VALUE={Gain*V(VC+,VC-)<Ineg ? Ineg : Gain*V(VC+,VC-)>Ipos ? Ipos : Gain*V(VC+,VC-)}
.ends
*
.subckt VCCS_LIM_CLAWn_INA333 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 3e-05)
+(3.3333, 0.00013691)
+(6.6667, 0.0002707)
+(8.8889, 0.00034123)
+(9, 0.00034476)
+(9.2222, 0.00035181)
+(9.4444, 0.00035887)
+(9.6667, 0.00036592)
+(9.8889, 0.00037297)
+(10, 0.0003765)
.ends
*
.subckt VCCS_LIM_CLAWp_INA333 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 3e-05)
+(1.5325, 0.00017373)
+(3.065, 0.00048081)
+(4.0867, 0.00078722)
+(4.1378, 0.00080691)
+(4.2399, 0.00085026)
+(4.3421, 0.00091894)
+(4.4443, 0.00099847)
+(4.5464, 0.0011134)
+(4.5975, 0.0011953)
.ends
*
.subckt VCCS_LIM_GR_INA333 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.42059
.param Ineg = -0.42059
G1 IOUT+ IOUT- VALUE={Gain*V(VC+,VC-)<Ineg ? Ineg : Gain*V(VC+,VC-)>Ipos ? Ipos : Gain*V(VC+,VC-)}
.ends
*
.subckt VCCS_LIM_IQ_INA333 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT- IOUT+ VALUE={V(VC+,VC-)<=0 ? 0 : Gain*V(VC+,VC-)}
.ends
*
.subckt VCCS_LIM_ZO_INA333 VC+ VC- IOUT+ IOUT-
.param Gain = 78939.8006
.param Ipos = 3833.9
.param Ineg = -8434.58
G1 IOUT+ IOUT- VALUE={Gain*V(VC+,VC-)<Ineg ? Ineg : Gain*V(VC+,VC-)>Ipos ? Ipos : Gain*V(VC+,VC-)}
.ends
*
.subckt VNSE_INA333 1 2
.param NVR=55
.param RNV={1.184*PWR(NVR,2)}
R4 5 0 {RNV}
R5 5 0 {RNV}
E3 1 2 5 0 10
.ends
*
